US08247408B2
To a pressure tube charged with 2-amino-6-bromo-8-ethyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (500 mg, 1.77 mmol) and 2-tributylstannylthiazole (793 mg, 3.54 mmol) in dry toluene (6.0 mL) was added Pd(PPh3)4 (204 mg, 0.177 mmol). The pressure tube was sealed under nitrogen and heated to 110° C. After 12 h, the reaction was cooled to room temperature and concentrated in vacuo. The residue was redissolved in ethyl acetate and 40% KF on alumina (2 g) added. After 30 minutes, the alumina was filtered and the filtrate washed consecutively with 1M aqueous KF and brine. The organic layer was separated and dried over Na2SO4, filtered and concentrated in vacuo. The residue was triturated with methylene chloride and hexanes to provide 2-amino-8-ethyl-4-methyl-6-(1,3-thiazol-2-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (178 mg, 35% yield) as a yellow solid. MS calculated for C13H13N5OS 287.346, MS (EI) observed 288.0 (MH+).

reactant | 2-amino-6-bromo-8-ethyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 1.77 mmol, 500 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)CC)C | C10H11BrN4O
reactant | 2-tributylstannylthiazole | 3.54 mmol, 793 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.177 mmol, 204 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-8-ethyl-4-methyl-6-(1,3-thiazol-2-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 178 mg, 35% yield | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2SC=CN2)=O)CC)C | C13H13N5OS
